US05663200
1j) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxy-phenyl)-2(R)-[(p-benzyloxyphenyl)methyl]hexanoic acid
2.44 g (3.90 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-[(p-benzyloxyphenyl)methyl]-hexanoic acid in 14 ml of DMF are stirred, under an N2 atmosphere, together with 2.70 g (17.6 mmol) of tert-butyldimethylchlorosilane and 2.18 g (32 mmol) of imidazole at RT for 18 h. The reaction mixture is poured onto ice-water, and this mixture is extracted with 3 portions of ethyl acetate; the organic phases are washed with 10% citric acid solution, H2O and saline, dried with Na2SO4 and evaporated. The resulting oil is taken up in 30 ml of methanol/THF/H2O 3:1:1, and this solution is treated with 3.2 g of K2CO3 and stirred at RT for 1 h. The reaction mixture is partially evaporated, and the aqueous residue is poured onto 10% citric acid solution and ice, and this mixture is extracted 3× with ethyl acetate; the organic phases are washed twice with H2O and, finally, with saline, dried with Na2SO4 and evaporated. Column chromatography (SiO2, hexane/ethyl acetate 2:1→1:1) of the crude product affords the title compound: TLC Rf (C)=0.53; FAB-MS (M+H)+ =740.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-[(p-benzyloxyphenyl)methyl]-hexanoic acid | 3.90 mmol, 2.44 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C38H43NO7
reactant | tert-butyldimethylchlorosilane | 17.6 mmol, 2.70 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 32 mmol, 2.18 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxy-phenyl)-2(R)-[(p-benzyloxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C44H57NO7Si
